US05380910
Into a 1 l four necked flask, 500 ml of dry pyridine, 44.3 g (0.259 mol) of 4-bromotoluene, 35.6 g (0.259 mol) of 2-chlorobenzonitrile, 3.24 g (0.025 mol) of anhydrous nickel chloride, 13.1 g (0.05 mol) of triphenylphosphine and 67.6 g (1.034 mol) of zinc powder were charged under a nitrogen atmosphere and stirred at room temperature for 30 minutes. The temperature was raised to 80° C., and the mixture was reacted for 6 hours. Then, 400 ml of toluene was added thereto, and the solid was filtered off while it was still hot. The toluene layer was analyzed by gas chromatography. The results are shown in Table 1. Then, pyridine and toluene were recovered under reduced pressure. Then, 500 ml of toluene was added to the residue, and the solid was filtered off while it was still hot and washed with 100 ml of toluene. The warm toluene layer was washed with 300 ml of 5% hydrochloric acid, then with 300 ml of a 5% sodium hydrogencarbonate aqueous solution and further twice with 300 ml of warm water. The toluene layer was concentrated to obtain 54 g of a crude product. This product was distilled to obtain 28.4 g (yield: 57%, purity: 97.4%) of white crystals of 2-cyano-4'-methyl-1,1'-biphenyl.

reactant | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-bromotoluene | 0.259 mol, 44.3 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | 2-chlorobenzonitrile | 0.259 mol, 35.6 g | ClC1=C(C#N)C=CC=C1 | C7H4ClN
reactant | triphenylphosphine | 0.05 mol, 13.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | nickel chloride | 0.025 mol, 3.24 g | [Ni](Cl)Cl
catalyst | zinc | 1.034 mol, 67.6 g | [Zn] | Zn
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 2-cyano-4'-methyl-1,1'-biphenyl | yield: 57% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)C | C14H11N
